US05723485
A solution of 152 g (0.96 mol) of KMnO4 in 3.5 1 of water is introduced into a mixture of 117.1 g (0.7 mol) of 4-(methylthio)acetophenone, prepared in Example 2c, and 292 ml of acetic acid. 2.3 l of water are added and the reaction temperature is allowed to return to room temperature. Saturated sodium sulfite solution is added dropwise until the solution is decolorized. This is left to stand overnight at room temperature. The solid obtained is filtered off, washed copiously with water and recrystallized from 95% ethanol to give 91.5 g of 4-(methylsulfonyl)acetophenone.

reactant | KMnO4 | 0.96 mol, 152 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | 4-(methylthio)acetophenone | 0.7 mol, 117.1 g | CC(=O)C1=CC=C(C=C1)SC | C9H10OS
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 292 ml | C(C)(=O)O | C2H4O2
solvent | water | 2.3 l | O | H2O
product | 4-(methylsulfonyl)acetophenone | 91.5 g | CC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C9H10O3S
